US07855193B2
4-(5-cyclohexylbenzofuran-2-yl)benzaldehyde (Step 3 in Scheme 2)
A mixture of 5-cyclohexylbenzofuran-2-ylboronic acid (75 mg, 0.37 mmol), 4-bromobenzaldehyde (62 mg, 0.34 mmol), triethylamine (1.1 mL, 7.5 mmol) and bis(triphenylphosphine)palladium(II)chloride (13 mg, 0.05 mmol) in ethanol (11 mL) was irradiated in a microwave instrument at 100° C. for 20 min. The reaction mixture was cooled, and the solvent was removed. The residue was purification by silica gel chromatography on ISCO system gave the title compound (52 mg, 46% yield): >95% purity by LCMS, ESI-MS: 305.2 M+H+). 1H NMR (400 MHz, CDCl3) δ 10.03 (s, 1H), 8.00 (d, 2H), 7.95 (d, 2H), 7.46 (d, 2H), 7.19 (d, 1H), 7.16 (s, 1H), 2.63-2.58 (m, 1H), 1.94-1.76 (m, 4H), 1.53-1.42 (m, 4H), 1.38-1.25 (m, 2H). MS (ESI) m/z: Calculated: 304.38; Observed: 305.2 (M++1).

reactant | 5-cyclohexylbenzofuran-2-ylboronic acid | 0.37 mmol, 75 mg | C1(CCCCC1)C=1C=CC2=C(C=C(O2)B(O)O)C1 | C14H17BO3
reactant | 4-bromobenzaldehyde | 0.34 mmol, 62 mg | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | triethylamine | 7.5 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 11 mL | C(C)O | C2H6O
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.05 mmol, 13 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-(5-cyclohexylbenzofuran-2-yl)benzaldehyde | 52 mg, 46% yield | C1(CCCCC1)C=1C=CC2=C(C=C(O2)C2=CC=C(C=O)C=C2)C1 | C21H20O2
